US04202894
230 G. of 3-(p-tert.-amyl-phenyl)-2-methyl-propionaldehyde and 137 g. of 2,6-dimethylmorpholine are heated at reflux in 1000 ml. of toluene for 16 hours in a water-separator under nitrogen gasification until the water-cleavage has been completed. 17.5 G. of 5% palladium/carbon are added at room temperature under nitrogen gasification and the mixture is subsequently hydrogenated until the hydrogen uptake has been completed. Then, the catalyst is removed by filtration and the toluene is evaporated in vacuo. By distillation of the residue, there is obtained pure 4-[3-(p-tert.-amyl-phenyl)-2-methyl-propyl]-2,6-dimethylmorpholine having a boiling point of 134° C./0.036 Torr.

reactant | 3-(p-tert.-amyl-phenyl)-2-methyl-propionaldehyde | C(C)(C)(CC)C1=CC=C(C=C1)CC(C=O)C | C15H22O
reactant | 2,6-dimethylmorpholine | CC1CNCC(O1)C | C6H13NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | [Pd] | Pd
solvent | water | O | H2O
product | 4-[3-(p-tert.-amyl-phenyl)-2-methyl-propyl]-2,6-dimethylmorpholine | C(C)(C)(CC)C1=CC=C(C=C1)CC(CN1CC(OC(C1)C)C)C | C21H35NO
